US07612114B2
6-Methoxy-3,4-dihydronaphthalen-2-yl trifluoromethanesulfonate
To a solution of 6-methoxy-2-tetralone (2.0 g) in tetrahydrofuran (30 ml), which was cooled at −78° C., was added dropwise lithium hexamethyldisilazide (1.0 M solution in tetrahydrofuran) (12.5 ml) under a nitrogen atmosphere, the solution was stirred for 30 minutes, then N-phenyltrifluoromethanesulfonimide (4.3 g) was added thereto, and the solution was stirred for 30 minutes while warming from −78° C. to room temperature. A saturated aqueous solution of ammonium chloride was added thereto, the solution was extracted with ethyl acetate, then sequentially washed with water and brine, dried over anhydrous magnesium sulfate, and then the solvent was evaporated in vacuo. The residue was purified by silica gel column chromatography (hexane-ethyl acetate system) to provide the title compound (2.7 g).

reactant | 6-methoxy-2-tetralone | 2.0 g | COC=1C=C2CCC(CC2=CC1)=O | C11H12O2
reactant | lithium hexamethyldisilazide | 1.0 M, 12.5 ml | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | N-phenyltrifluoromethanesulfonimide | 4.3 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 6-Methoxy-3,4-dihydronaphthalen-2-yl trifluoromethanesulfonate | 2.7 g | FC(S(=O)(=O)OC1=CC2=CC=C(C=C2CC1)OC)(F)F | C12H11F3O4S
